US09428509B2
1-Methylcyclohexane-1,4-diol
To a cooled (0° C.) solution of 4-hydroxy-4-methylcyclohexanone (1 equiv) in MeOH (0.5 M) was added sodium borohydride (2 equiv). The resulting mixture was stirred at room temperature overnight. After the reaction was complete, the resulting mixture was quenched with water and extracted with ethyl acetate. The organic layers were combined, washed with brine (20 mL), dried over sodium sulfate, filtered and concentrated. The crude product was purified by silica gel flash column chromatography (0-10% DCM in MeOH) to afford the title compound as a white solid (87% yield, cis/trans mixture). 1H NMR (300 MHz, DMSO-d6) δ ppm 4.34-4.32 (d, J=4.5 Hz, 1H), 4.29-4.27 (d, J=3.6 Hz, 0.45H), 4.12-4.06 (m, 0.47H), 4.00 (s, 0.39H), 3.97 (s, 1H), 3.82 (s, 0.48H), 3.55-3.50 (m, 0.47H), 3.20-3.17 (d, J=7.5 Hz, 1H), 1.76-1.62 (m, 1H), 1.60-1.40 (m, 8H), 1.35-1.20 (m, 4H), 1.07 (s, 1.5H), 1.05 (s, 3H).

reactant | 4-hydroxy-4-methylcyclohexanone | 1 equiv | OC1(CCC(CC1)=O)C | C7H12O2
reactant | sodium borohydride | 2 equiv | [BH4-].[Na+]
solvent | MeOH | 0.5 M | CO | CH4O
product | 1-Methylcyclohexane-1,4-diol | 87% yield | CC1(CCC(CC1)O)O | C7H14O2
